US07495103B2
To a solution of 2-tert-butyl-4-fluorophenol (2.63 g, 15.7 mmol) and NEt3 (3.13 mL, 22.5 mmol) in dioxane (45 mL) was added methyl chloroformate (1.27 mL, 16.5 mmol). The mixture was stirred at room temperature for 1 h. The precipitate was removed via filtration. The filtrate was then diluted with water and extracted with ether. The ether extract was washed with water and dried over MgSO4. After removal of solvent, the residue was purified by column chromatography to give 2-tert-butyl-4-fluorophenyl methyl carbonate (2.08 g, 59%). 1H NMR (400 MHz, DMSO-d6) δ 7.24 (dd, J=8.8, 5.4 Hz, 1H), 7.17-7.10 (m, 2H), 3.86 (s, 3H), 1.29 (s, 9H).

reactant | 2-tert-butyl-4-fluorophenol | 15.7 mmol, 2.63 g | C(C)(C)(C)C1=C(C=CC(=C1)F)O | C10H13FO
reactant | NEt3 | 22.5 mmol, 3.13 mL | CCN(CC)CC | C6H15N
reactant | methyl chloroformate | 16.5 mmol, 1.27 mL | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 45 mL | O1CCOCC1 | C4H8O2
product | 2-tert-butyl-4-fluorophenyl methyl carbonate | 2.08 g, 59% | C(OC1=C(C=C(C=C1)F)C(C)(C)C)(OC)=O | C12H15FO3
